US07662811B2
(N-(4-cyanophenethyl)-2,2,2-trifluoroacetamide (0.61 g, 2.52 mmol) was azeotroped with benzene and was dissolved in 10 mL of anhydrous EtOH. To this solution dry HCl was bubbled though for 90 min at 0 C. The solvent was evaporated to dryness under high vacuum to give a yellow solid. This yellow solid and formohydrazide (151 mg, 2.52 mmol) was dissolved in 10 mL of dry pyridine and the resulting solution was refluxed for 2 h. After cooling to RT, pyridine was evaporated and the residue was treated with 5% HCl, extracted with EtOAc, dried over Na2SO4, filtered, and evaporated to dryness. Flash chomatography (SiO2, EtOAc/DCM=1:1 to Dcm/MeOH=10:1) afforded N-(4-(4H-1,2,4-triazol-3-yl)phenethyl)-2,2,2-trifluoroacetamide as a white solid.

reactant | N-(4-cyanophenethyl)-2,2,2-trifluoroacetamide | 2.52 mmol, 0.61 g | C(#N)C1=CC=C(CCNC(C(F)(F)F)=O)C=C1 | C11H9F3N2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | formohydrazide | 2.52 mmol, 151 mg | C(=O)NN | CH4N2O
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-(4H-1,2,4-triazol-3-yl)phenethyl)-2,2,2-trifluoroacetamide | N=1N=C(NC1)C1=CC=C(CCNC(C(F)(F)F)=O)C=C1 | C12H11F3N4O
